US06017634
Preparation of bisphenol A glycerolate di(2-octen-1-ylsuccinic) acid monoester
10.54 g of bisphenol A diglycidyl ether was heated to 70° C. under stirring and then 4.46 g acrylic acid was added slowly under nitrogen atmosphere. After maintaining the reaction at 70° C. for 2 hours, 13.0 g of 2-octen-1-ylsuccinic anhydride was added and then the temperature was raised to 80° C. under mechanical stirring. The reactants are stirred at 80° C. for 2-3 hours to complete the reaction.

reactant | bisphenol A diglycidyl ether | 10.54 g | C(C1CO1)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC1CO1 | C21H24O4
reactant | acrylic acid | 4.46 g | C(C=C)(=O)O | C3H4O2
reactant | 2-octen-1-ylsuccinic anhydride | 13.0 g | C(=CCCCCCC)C1C(=O)OC(C1)=O | C12H18O3
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
